US05639732
A solution 0.5 g (2.75 mmol) of 2-benzyloxy-1,3-propanediol in 3.0 mL of pyridine was stirred at 0° C. under N2 as 0.37 g (2.5 mmol) of methyl dichlorophosphate was added dropwise over 15 mins to keep the solution under 10° C. The cold bath was removed and the reaction mixture was stirred overnight at 20° C.(~14 h). The mixture was filtered, and washed with benzene (10 mL), and the filtrate was evaporated. The residue was dissolved in benzene: CH2Cl2 (1:1, 20 mL), washed with H2O (10 mL), saturated NaHCO3 (10 mL), saturated NaCl (10 mL) and dried over magnesium sulfate. Evaporation afforded 0.26 g (40%) of 5-benzyloxy-2-methyl-1,3,2-dioxaphosphorinane-2-oxide.

reactant | 2-benzyloxy-1,3-propanediol | 2.75 mmol, 0.5 g | C(C1=CC=CC=C1)OC(CO)CO | C10H14O3
reactant | methyl dichlorophosphate | 2.5 mmol, 0.37 g | P(=O)(OC)(Cl)Cl | CH3Cl2O2P
reactant | pyridine | 3.0 mL | N1=CC=CC=C1 | C5H5N
product | 5-benzyloxy-2-methyl-1,3,2-dioxaphosphorinane-2-oxide | 0.26 g, 40% | C(C1=CC=CC=C1)OC1COP(OC1)(C)=O | C11H15O4P
